US09334286B2
1-(4-(2-((4-(1,2-Dimethyl-1H-imidazol-5-yl)-2-methoxyphenyl)amino)pyrido[2,3-d]pyrimidin-7-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol
A suspension of NaH (4.3 mg), 2-methyl-1-(4-(2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7-yl)-1H-pyrazol-1-yl)propan-2-ol (Preparation 69, 15.5 mg, 0.045 mmol), N-(4-(1,2-dimethyl-1H-imidazol-5-yl)-2-methoxyphenyl)formamide (Preparation 74, 16.4 mg, 0.067 mmol) in NMP/THF (1/3 mL) was stirred at 160° C. under microwave irradiation for 2 hours. The reaction mixture was filtered, diluted with NaCl solution and extracted with EtOAc. The EtOAc portion was purified by elution through an SCX-2 column using 2M NH3/MeOH to give the title compound as yellow oil (3 mg, 14%).

reactant | NaH | 4.3 mg | [H-].[Na+]
reactant | 2-methyl-1-(4-(2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7-yl)-1H-pyrazol-1-yl)propan-2-ol | 0.045 mmol, 15.5 mg | CC(CN1N=CC(=C1)C=1C=CC2=C(N=C(N=C2)S(=O)(=O)C)N1)(C)O | C15H17N5O3S
reactant | N-(4-(1,2-dimethyl-1H-imidazol-5-yl)-2-methoxyphenyl)formamide | 0.067 mmol, 16.4 mg | CN1C(=NC=C1C1=CC(=C(C=C1)NC=O)OC)C | C13H15N3O2
solvent | NMP THF | 1/3 mL | CN1CCCC1=O.C1CCOC1
product | 1-(4-(2-((4-(1,2-Dimethyl-1H-imidazol-5-yl)-2-methoxyphenyl)amino)pyrido[2,3-d]pyrimidin-7-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 3 mg, 14% | CN1C(=NC=C1C1=CC(=C(C=C1)NC=1N=CC2=C(N1)N=C(C=C2)C=2C=NN(C2)CC(C)(O)C)OC)C | C26H28N8O2
